US09163011B2
f) (R)-3-Amino-3-(6-bromo-3-fluoro-pyridin-2-yl)-2,2-difluoro-5-methoxy-pentan-1-ol
To a solution of (S)-2-methyl-propane-2-sulfinic acid [(R)-1-(6-bromo-3-fluoro-pyridin-2-yl)-2,2-difluoro-3-hydroxy-1-(2-methoxy-ethyl)-propyl]amide (1.50 g, 3.33 mmol) in methanol (8.4 ml) was added 2M HCl in diethyl ether (6.56 ml, 13.11 mmol). The reaction mixture was stirred for 1.5 h at room temperature. 7 M ammonia in methanol (2.7 ml) was added to the reaction mixture and the resulting colourless suspension was evaporated in vacuo. The remaining solid was triturated with warm dichloromethane, cooled to rt, filtered and rinsed with dichloromethane. The filtrate was evaporated affording the title compound which was used without purification in the next step. 1.42 g colourless, viscous oil. 100% yield.

reactant | (S)-2-methyl-propane-2-sulfinic acid [(R)-1-(6-bromo-3-fluoro-pyridin-2-yl)-2,2-difluoro-3-hydroxy-1-(2-methoxy-ethyl)-propyl]amide | 3.33 mmol, 1.50 g | BrC1=CC=C(C(=N1)[C@@](C(CO)(F)F)(CCOC)N[S@@](=O)C(C)(C)C)F | C15H22BrF3N2O3S
reactant | HCl | 2M | Cl | ClH
reactant | diethyl ether | 13.11 mmol, 6.56 ml | C(C)OCC | C4H10O
reactant | ammonia | 7 M | N | H3N
solvent | methanol | 8.4 ml | CO | CH4O
solvent | methanol | 2.7 ml | CO | CH4O
product | (R)-3-Amino-3-(6-bromo-3-fluoro-pyridin-2-yl)-2,2-difluoro-5-methoxy-pentan-1-ol | 100% yield | N[C@](C(CO)(F)F)(CCOC)C1=NC(=CC=C1F)Br | C11H14BrF3N2O2
